US09278985B2
To 80 mL of benzene was added polyphosphoric acid (3.47 g, 36.9 mmol) and commercially available 2-(5-bromo-2-chlorophenoxy)acetaldehyde (9.2 g, 36.9 mmol) and separated into eight 20 mL vials containing equal amounts. The vials were heated with an external temperature of 90° C. for 4 days. Upon cooling of the reaction, the benzene was removed by decanting. Celite (50 g) was added to the organic solution and the solvent was removed using a rotary evaporator. The impregnated Celite was loaded onto a Teledyne-Isco purification system and purified by silica gel chromatography using 0-30% ethyl acetate:hexanes to give 4-bromo-7-chlorobenzofuran as a white solid (2.7 g, 32%): 1H NMR (400 MHz, CDCl3) δ 7.73 (d, J=2.2 Hz, 1H), 7.33 (d, J=8.3 Hz, 1H), 7.18 (d, J=8.3 Hz, 1H), 6.85 (d, J=2.2 Hz, 1H); 13C NMR (101 MHz, CDCl3) δ 150.38 (s), 146.14 (s), 130.27 (s), 126.56 (s), 125.32 (s), 116.44 (s), 112.49 (s), 107.71 (s); ESIMS m/z 232 ([M+H]+), 230 ([M−H]−).

reactant | 2-(5-bromo-2-chlorophenoxy)acetaldehyde | 36.9 mmol, 9.2 g | BrC=1C=CC(=C(OCC=O)C1)Cl | C8H6BrClO2
solvent | benzene | 80 mL | C1=CC=CC=C1 | C6H6
product | 4-bromo-7-chlorobenzofuran | 2.7 g, 32% | BrC1=CC=C(C2=C1C=CO2)Cl | C8H4BrClO
